US07074796B2
5c, 3-{3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]propyl}-5-fluoro-1H-indole
from 1-(2,3-dichlorophenyl)piperazine and 3-(3-chloropropyl)-5-fluoro-1H-indole. Mp 147–148° C. 1H NMR (DMSO-d6): 1.75–1.85 (m, 2H); 2.30–2.45 (t, 2H); 2.45–2.60 (m, 2H); 2.70 (t, 2H); 3.00 (b s, 4H); 3.35 (b s, 2H); 6.85–6.95 (m, 1H); 7.05–7.15 (m, 1H); 7.20 (s, 1H); 7.20–7.35 (m, 4H); 10.85 (b s, 1H). Ms m/z: 406 (MH+).

reactant | 1-(2,3-dichlorophenyl)piperazine | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | 3-(3-chloropropyl)-5-fluoro-1H-indole | ClCCCC1=CNC2=CC=C(C=C12)F | C11H11ClFN
product | 3-{3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]propyl}-5-fluoro-1H-indole | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)F | C21H22Cl2FN3
